US07015301B2
To N-tert-butoxycarbonyl-2-trimethylstannylpyrrole (3.0 g) and 6-bromo-2-(3-hydroxypropyloxy)naphthalene (2.55 g) in 20 ml of DMF was added dichloro bis(triphenylphosphino)palladium(II) (64 mg) under an argon atmosphere. The mixture was heated at 70° C. for 16 h. After cooling the mixture was washed with diethyl ether and water. The combined organic layers were dried (MgSO4), filtered, and concentrated. The crude product was purified by column chromatography (silica, hexane/dichloromethane, 2/98, v/v) to give a pure oil in 60% yield [2-(6-(3-hydroxypropyloxy)-naphthyl)-N-tert-butoxycarbonylpyrrole]. To this oil (0.5 g) in 10 ml of DMF was added dropwise phophorusoxychloride (0.42 g) at 0° C. under an argon atmosphere. The mixture was heated at 60° C. for 2 h. After cooling the mixture was neutralized with aqueous sodium hydroxide (1 M) and heated at 80° C. for 1 h. After cooling the precipitate was filtered off and purified by column chromatography (silica, methanol/dichloromethane, 1/99,v/v) to give a 75% yield of 5-formyl-2-(6-(3-chloropropyloxy)-naphthyl)-N—H-pyrrole.

reactant | N-tert-butoxycarbonyl-2-trimethylstannylpyrrole | 3.0 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)[Sn](C)(C)C
reactant | 6-bromo-2-(3-hydroxypropyloxy)naphthalene | 2.55 g | BrC=1C=C2C=CC(=CC2=CC1)OCCCO | C13H13BrO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | dichloro bis(triphenylphosphino)palladium(II) | 64 mg | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
product | 2-(6-(3-hydroxypropyloxy)-naphthyl)-N-tert-butoxycarbonylpyrrole | 60% yield | OCCCOC=1C=C2C=CC=C(C2=CC1)C=1N(C=CC1)C(=O)OC(C)(C)C | C22H25NO4
